US07125896B2
b) 3-(2-Bromophenoxy)-1-cyclopropylpyrrolidine
The title compound was prepared from 2-bromophenol and 1-cyclopropylpyrrolidin-3-yl methanesulphonate in a similar manner to Example 134 (b) except that the compound was purified by cation exchange chromatography eluting with ammonia/methanol mixtures.

reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 1-cyclopropylpyrrolidin-3-yl methanesulphonate | CS(=O)(=O)OC1CN(CC1)C1CC1 | C8H15NO3S
product | 3-(2-Bromophenoxy)-1-cyclopropylpyrrolidine | BrC1=C(OC2CN(CC2)C2CC2)C=CC=C1 | C13H16BrNO
